US04338333
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl) ethanamine
The compound was prepared as in Example 5 from 1-(4-carbomethoxymethoxyphenyl)propan-2-one (2.22 g) and 2-hydroxy-2-(3-chlorophenyl) ethanamine (1.71 g) and crystallised from hexane m.p. 82°-87° as a 58:42 mixture of diastereoisomers.

reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | 2.22 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-hydroxy-2-(3-chlorophenyl) ethanamine | 1.71 g | OC(CN)C1=CC(=CC=C1)Cl | C8H10ClNO
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl) ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)O | C20H24ClNO4
